US06964965B2
A scintillation vial with a Teflon lined cap was charged with 5-bromo-3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine (300.2 mg, 1 mmol), 6-methoxy-2,3-dihydro-1H-inden-5-ylboronic acid (211.2 mg, 1.1 mmol, Preparation 2), terakis(triphenylphosphine)palladium (0) (116 mg, 0.1 mmol), 2M Na2CO3 (1 mL, 2 mmol), and ethylene glycol dimethyl ether (6 mL). The reaction was heated on the orbital shaker to 80° C. for 30 hours. After cooling to ambient temperature, the reaction was partitioned between H2O and ethyl acetate. The aqueous layer was extracted one more time with ethyl acetate. The organics were combined, dried with Na2SO4, filtered and concentrated to 530 mg of a yellow crude oil. The crude was purified by Biotage MPLC (90 g column, 1.5% acetone in toluene) to give 243 mg (66%) of 3,6-diethyl-N-(1-ethylpropyl)-5-(6-methoxy-2,3-dihydro-1H-inden-5-yl)pyrazin-2-amine as a pale yellow oil. Rf 0.19 (10% ethyl acetate in heptane). IR (liq.) 2964, 2935, 2874, 1566, 1550, 1484, 1464, 1444, 1391, 1380, 1276, 1253, 1203, 1174, 1033 cm−1. OAMS supporting ions at: ESI+368.3. HRMS (ESI) calcd for C23H33N3O+H1 368.2702, found 368.2703. Anal. Calcd for C23H33N3O: C, 75.16; H, 9.05; N, 11.43. Found: C, 75.25; H, 9.15; N, 11.13.

reactant | 5-bromo-3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine | 1 mmol, 300.2 mg | BrC=1N=C(C(=NC1CC)NC(CC)CC)CC | C13H22BrN3
reactant | 6-methoxy-2,3-dihydro-1H-inden-5-ylboronic acid | 1.1 mmol, 211.2 mg | COC1=C(C=C2CCCC2=C1)B(O)O | C10H13BO3
reactant | Na2CO3 | 2 mmol, 2M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | terakis(triphenylphosphine)palladium (0) | 0.1 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethylene glycol dimethyl ether | 6 mL | COCCOC | C4H10O2
product | 3,6-diethyl-N-(1-ethylpropyl)-5-(6-methoxy-2,3-dihydro-1H-inden-5-yl)pyrazin-2-amine | 243 mg, 66% | C(C)C=1C(=NC(=C(N1)C=1C=C2CCCC2=CC1OC)CC)NC(CC)CC | C23H33N3O
